*  Generated for: PrimeSim
*  Design library name: th_analog_circuits
*  Design cell name: th_4_bit_RAM
*  Design view name: schematic
.lib 'saed32nm.lib' TT

*Custom Compiler Version S-2021.09
*Sat Feb 26 07:20:26 2022

.global gnd!
********************************************************************************
* Library          : th_analog_circuits
* Cell             : th_NAND_AND_gate
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
.subckt th_nand_and_gate a and b nand gnd_1 vdd
xm4 and nand vdd vdd p105 w=0.1u l=0.03u nf=1 m=1
xm1 nand b vdd vdd p105 w=0.1u l=0.03u nf=1 m=1
xm0 nand a vdd vdd p105 w=0.1u l=0.03u nf=1 m=1
xm5 and nand gnd_1 gnd_1 n105 w=0.1u l=0.03u nf=1 m=1
xm3 net14 b gnd_1 gnd_1 n105 w=0.1u l=0.03u nf=1 m=1
xm2 nand a net14 net14 n105 w=0.1u l=0.03u nf=1 m=1
.ends th_nand_and_gate

********************************************************************************
* Library          : th_analog_circuits
* Cell             : th_inverter_new
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
.subckt th_inverter_new in out
xm0 out in net2 net2 p105 w=0.1u l=0.03u nf=1 m=1
xm1 out in gnd! gnd! n105 w=0.1u l=0.03u nf=1 m=1
v2 net2 gnd! dc=1.2
.ends th_inverter_new

********************************************************************************
* Library          : th_analog_circuits
* Cell             : th_2x4_decoder
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
.subckt th_2x4_decoder a0 a1 d0 d1 d2 d3 gnd_1 vdd
xi12 net42 d0 net43 net38 gnd_1 vdd th_nand_and_gate
xi2 a0 d3 a1 net15 gnd_1 vdd th_nand_and_gate
xi1 a0 d1 net43 net9 gnd_1 vdd th_nand_and_gate
xi0 a1 d2 net42 net3 gnd_1 vdd th_nand_and_gate
xi5 a0 net42 th_inverter_new
xi4 a1 net43 th_inverter_new
.ends th_2x4_decoder

********************************************************************************
* Library          : th_analog_circuits
* Cell             : th_inverter_new_vdd_gnd_pins
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
.subckt th_inverter_new_vdd_gnd_pins gnd_1 in out vdd
xm0 out in gnd_1 gnd_1 n105 w=0.1u l=0.03u nf=1 m=1
xm1 out in vdd vdd p105 w=0.1u l=0.03u nf=1 m=1
.ends th_inverter_new_vdd_gnd_pins

********************************************************************************
* Library          : th_analog_circuits
* Cell             : th_6t_ram_cell
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
.subckt th_6t_ram_cell bl blb gnd_1 q qb vdd wl
xm1 qb wl blb gnd! n105 w=0.1u l=0.03u nf=1 m=1
xm0 q wl bl gnd! n105 w=0.1u l=0.03u nf=1 m=1
xi10 gnd_1 q qb vdd th_inverter_new_vdd_gnd_pins
xi11 gnd_1 qb q vdd th_inverter_new_vdd_gnd_pins
.ends th_6t_ram_cell

********************************************************************************
* Library          : th_analog_circuits
* Cell             : th_RAM_writer_ckt
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
.subckt th_ram_writer_ckt bl blb din gnd_1 vdd wl
xi1 wl net10 din net14 gnd_1 vdd th_nand_and_gate
xi2 gnd_1 net14 bl vdd th_inverter_new_vdd_gnd_pins
xi0 gnd_1 net10 blb vdd th_inverter_new_vdd_gnd_pins
.ends th_ram_writer_ckt

********************************************************************************
* Library          : th_analog_circuits
* Cell             : th_1bit_RAM
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
.subckt th_1bit_ram din dout gnd_1 r_en vdd wl
xi14 net79 net80 gnd_1 net74 net53 vdd wl th_6t_ram_cell
xi23 net74 dout r_en net56 gnd_1 vdd th_nand_and_gate
xi25 net79 net80 din gnd_1 vdd wl th_ram_writer_ckt
.ends th_1bit_ram

********************************************************************************
* Library          : th_analog_circuits
* Cell             : th_4_bit_RAM
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
xi0 a0 a1 net186 net26 net20 net83 gnd! net194 th_2x4_decoder
xi46 din dout0 gnd! net194 net194 net186 th_1bit_ram
xi3 din dout1 gnd! net194 net194 net26 th_1bit_ram
xi2 din dout2 gnd! net194 net194 net20 th_1bit_ram
xi1 din dout3 gnd! net194 net194 net83 th_1bit_ram
v5 net194 gnd! dc=1.8
v47 din gnd! dc=0 pulse ( 0 1.8 0 1p 1p 4u 8u )
v7 a0 gnd! dc=0 pulse ( 0 1.8 0 1p 1p 1u 2u )
v6 a1 gnd! dc=0 pulse ( 0 1.8 0 1p 1p 2u 4u )








.tran '1u' '10u' name=tran
.dcOP

.option primesim_remove_probe_prefix = 0
.probe v(*) i(*) level=1
.probe p(*)
.probe power
.probe tran v(a0) v(a1) v(din) v(dout0) v(dout1) v(dout2) v(dout3)
.probe dc v(dout0) v(dout1)

.temp 25



.option primesim_output=wdf


.option parhier = LOCAL






.end
