*  Generated for: PrimeSim
*  Design library name: th_analog_circuits
*  Design cell name: th_8_bit_RAM
*  Design view name: schematic
.lib 'saed32nm.lib' TT

*Custom Compiler Version S-2021.09
*Sat Feb 26 08:08:58 2022

.global gnd!
********************************************************************************
* Library          : th_analog_circuits
* Cell             : th_3_ip_OR_NOR_gate
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
.subckt th_3_ip_or_nor_gate a b c nor or vdd gnd_1
xm15 nor b gnd_1 gnd_1 n105 w=0.1u l=0.03u nf=1 m=1
xm16 nor a gnd_1 gnd_1 n105 w=0.1u l=0.03u nf=1 m=1
xm17 nor c gnd_1 gnd_1 n105 w=0.1u l=0.03u nf=1 m=1
xm28 or nor gnd_1 gnd_1 n105 w=0.1u l=0.03u nf=1 m=1
xm12 net17 a vdd vdd p105 w=0.1u l=0.03u nf=1 m=1
xm13 net21 c net17 net17 p105 w=0.1u l=0.03u nf=1 m=1
xm14 nor b net21 net21 p105 w=0.1u l=0.03u nf=1 m=1
xm27 or nor vdd vdd p105 w=0.1u l=0.03u nf=1 m=1
.ends th_3_ip_or_nor_gate

********************************************************************************
* Library          : th_analog_circuits
* Cell             : th_inverter_new
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
.subckt th_inverter_new in out
xm0 out in net2 net2 p105 w=0.1u l=0.03u nf=1 m=1
xm1 out in gnd! gnd! n105 w=0.1u l=0.03u nf=1 m=1
v2 net2 gnd! dc=1.2
.ends th_inverter_new

********************************************************************************
* Library          : th_analog_circuits
* Cell             : th_3x8_decoder
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
.subckt th_3x8_decoder a0 a1 a2 d0 d1 d2 d3 d4 d5 d6 d7 gnd_1 vdd
xi7 a2 a1 a0 d0 net40 vdd gnd_1 th_3_ip_or_nor_gate
xi6 a2 a1 net67 d1 net38 vdd gnd_1 th_3_ip_or_nor_gate
xi5 a2 a0 net65 d2 net36 vdd gnd_1 th_3_ip_or_nor_gate
xi4 a2 net65 net67 d3 net34 vdd gnd_1 th_3_ip_or_nor_gate
xi3 a1 a0 net69 d4 net24 vdd gnd_1 th_3_ip_or_nor_gate
xi2 a1 net69 net67 d5 net17 vdd gnd_1 th_3_ip_or_nor_gate
xi1 a0 net69 net65 d6 net10 vdd gnd_1 th_3_ip_or_nor_gate
xi0 net69 net65 net67 d7 net3 vdd gnd_1 th_3_ip_or_nor_gate
xi13 a0 net67 th_inverter_new
xi12 a1 net65 th_inverter_new
xi11 a2 net69 th_inverter_new
.ends th_3x8_decoder

********************************************************************************
* Library          : th_analog_circuits
* Cell             : th_inverter_new_vdd_gnd_pins
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
.subckt th_inverter_new_vdd_gnd_pins gnd_1 in out vdd
xm0 out in gnd_1 gnd_1 n105 w=0.1u l=0.03u nf=1 m=1
xm1 out in vdd vdd p105 w=0.1u l=0.03u nf=1 m=1
.ends th_inverter_new_vdd_gnd_pins

********************************************************************************
* Library          : th_analog_circuits
* Cell             : th_6t_ram_cell
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
.subckt th_6t_ram_cell bl blb gnd_1 q qb vdd wl
xm1 qb wl blb gnd! n105 w=0.1u l=0.03u nf=1 m=1
xm0 q wl bl gnd! n105 w=0.1u l=0.03u nf=1 m=1
xi10 gnd_1 q qb vdd th_inverter_new_vdd_gnd_pins
xi11 gnd_1 qb q vdd th_inverter_new_vdd_gnd_pins
.ends th_6t_ram_cell

********************************************************************************
* Library          : th_analog_circuits
* Cell             : th_NAND_AND_gate
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
.subckt th_nand_and_gate a and b nand gnd_1 vdd
xm4 and nand vdd vdd p105 w=0.1u l=0.03u nf=1 m=1
xm1 nand b vdd vdd p105 w=0.1u l=0.03u nf=1 m=1
xm0 nand a vdd vdd p105 w=0.1u l=0.03u nf=1 m=1
xm5 and nand gnd_1 gnd_1 n105 w=0.1u l=0.03u nf=1 m=1
xm3 net14 b gnd_1 gnd_1 n105 w=0.1u l=0.03u nf=1 m=1
xm2 nand a net14 net14 n105 w=0.1u l=0.03u nf=1 m=1
.ends th_nand_and_gate

********************************************************************************
* Library          : th_analog_circuits
* Cell             : th_RAM_writer_ckt
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
.subckt th_ram_writer_ckt bl blb din gnd_1 vdd wl
xi1 wl net10 din net14 gnd_1 vdd th_nand_and_gate
xi2 gnd_1 net14 bl vdd th_inverter_new_vdd_gnd_pins
xi0 gnd_1 net10 blb vdd th_inverter_new_vdd_gnd_pins
.ends th_ram_writer_ckt

********************************************************************************
* Library          : th_analog_circuits
* Cell             : th_1bit_RAM
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
.subckt th_1bit_ram din dout gnd_1 r_en vdd wl
xi14 net79 net80 gnd_1 net74 net53 vdd wl th_6t_ram_cell
xi23 net74 dout r_en net56 gnd_1 vdd th_nand_and_gate
xi25 net79 net80 din gnd_1 vdd wl th_ram_writer_ckt
.ends th_1bit_ram

********************************************************************************
* Library          : th_analog_circuits
* Cell             : th_8_bit_RAM
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
xi0 a0 a1 a2 net55 net49 net43 net37 net31 net25 net19 net61 gnd! net68
+ th_3x8_decoder
xi8 din dout7 gnd! net60 net60 net61 th_1bit_ram
xi7 din dout0 gnd! net60 net60 net55 th_1bit_ram
xi6 din dout1 gnd! net60 net60 net49 th_1bit_ram
xi5 din dout2 gnd! net60 net60 net43 th_1bit_ram
xi4 din dout3 gnd! net60 net60 net37 th_1bit_ram
xi3 din dout4 gnd! net60 net60 net31 th_1bit_ram
xi2 din dout5 gnd! net60 net60 net25 th_1bit_ram
xi1 din dout6 gnd! net60 net60 net19 th_1bit_ram
v16 din gnd! dc=0 pulse ( 0 1.2 0 1p 1p 8u 16u )
v11 a0 gnd! dc=0 pulse ( 0 1.2 0 1p 1p 1u 2u )
v10 a1 gnd! dc=0 pulse ( 0 1.2 0 1p 1p 2u 4u )
v9 a2 gnd! dc=0 pulse ( 0 1.2 0 1p 1p 4u 8u )
v13 net60 gnd! dc=1.2
v12 net68 gnd! dc=1.2








.tran '1u' '16u' name=tran

.option primesim_remove_probe_prefix = 0
.probe v(*) i(*) level=1
.probe tran v(a0) v(a1) v(a2) v(din) v(dout0) v(dout1) v(dout2) v(dout3)
+ v(dout4) v(dout5) v(dout6) v(dout7)

.temp 25



.option primesim_output=wdf


.option parhier = LOCAL






.end
