*  Generated for: PrimeSim
*  Design library name: th_analog_circuits
*  Design cell name: th_3x8_decoder
*  Design view name: schematic
.lib 'saed32nm.lib' TT

*Custom Compiler Version S-2021.09
*Sat Feb 26 07:16:38 2022

.global gnd!
********************************************************************************
* Library          : th_analog_circuits
* Cell             : th_3_ip_OR_NOR_gate
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
.subckt th_3_ip_or_nor_gate a b c nor or vdd gnd_1
xm15 nor b gnd_1 gnd_1 n105 w=0.1u l=0.03u nf=1 m=1
xm16 nor a gnd_1 gnd_1 n105 w=0.1u l=0.03u nf=1 m=1
xm17 nor c gnd_1 gnd_1 n105 w=0.1u l=0.03u nf=1 m=1
xm28 or nor gnd_1 gnd_1 n105 w=0.1u l=0.03u nf=1 m=1
xm12 net17 a vdd vdd p105 w=0.1u l=0.03u nf=1 m=1
xm13 net21 c net17 net17 p105 w=0.1u l=0.03u nf=1 m=1
xm14 nor b net21 net21 p105 w=0.1u l=0.03u nf=1 m=1
xm27 or nor vdd vdd p105 w=0.1u l=0.03u nf=1 m=1
.ends th_3_ip_or_nor_gate

********************************************************************************
* Library          : th_analog_circuits
* Cell             : th_inverter_new
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
.subckt th_inverter_new in out
xm0 out in net2 net2 p105 w=0.1u l=0.03u nf=1 m=1
xm1 out in gnd! gnd! n105 w=0.1u l=0.03u nf=1 m=1
v2 net2 gnd! dc=1.2
.ends th_inverter_new

********************************************************************************
* Library          : th_analog_circuits
* Cell             : th_3x8_decoder
* View             : schematic
* View Search List : hspice hspiceD schematic spice veriloga
* View Stop List   : hspice hspiceD
********************************************************************************
xi7 a2 a1 a0 d0 net40 net56 gnd! th_3_ip_or_nor_gate
xi6 a2 a1 net67 d1 net38 net56 gnd! th_3_ip_or_nor_gate
xi5 a2 a0 net65 d2 net36 net56 gnd! th_3_ip_or_nor_gate
xi4 a2 net65 net67 d3 net34 net56 gnd! th_3_ip_or_nor_gate
xi3 a1 a0 net69 d4 net24 net56 gnd! th_3_ip_or_nor_gate
xi2 a1 net69 net67 d5 net17 net56 gnd! th_3_ip_or_nor_gate
xi1 a0 net69 net65 d6 net10 net56 gnd! th_3_ip_or_nor_gate
xi0 net69 net65 net67 d7 net3 net56 gnd! th_3_ip_or_nor_gate
v10 a0 gnd! dc=0 pulse ( 1.2 0 0 1p 1p 1u 2u )
v9 a1 gnd! dc=0 pulse ( 1.2 0 0 1p 1p 2u 4u )
v8 a2 gnd! dc=0 pulse ( 1.2 0 0 1p 1p 4u 8u )
xi13 a0 net67 th_inverter_new
xi12 a1 net65 th_inverter_new
xi11 a2 net69 th_inverter_new
v14 net56 gnd! dc=1.2








.tran '1u' '10u' name=tran

.option primesim_remove_probe_prefix = 0
.probe v(*) i(*) level=1
.probe tran v(a0) v(a1) v(a2) v(d0) v(d1) v(d2) v(d3) v(d4) v(d5) v(d6) v(d7)

.temp 25



.option primesim_output=wdf


.option parhier = LOCAL






.end
